US06271358B1
N6-Benzoyl-2′-O-(trans-2-methoxycyclohexyl) adenosine
A solution of 2′-O-(trans-2-methoxy-cyclohexyl) adenosine (0.056 mol) in pyridine (100 mL) is evaporated under reduced pressure to dryness. The residue is redissolved in pyridine (560 mL) and cooled in an ice water bath. Trimethylsilyl chloride (36.4 mL, 0.291 mol) is added and the reaction is stirred at 5° C. for 30 minutes. Benzoyl chloride (33.6 mL, 0.291 mol) is added and the reaction is allowed to warm to 25° C. for 2 hours and then cooled to 5° C. The reaction is diluted with cold water (112 mL) and after stirring for 15 min, concentrated ammonium hydroxide (112 mL). After 30 min, the reaction is concentrated under reduced pressure (below 30° C.) followed by coevaporation with toluene (2×100 mL). The residue is dissolved in ethyl acetate-methanol (400 mL, 9:1) and the undesired silyl by-products are removed by filtration. The filtrate is concentrated under reduced pressure and purified by silica gel flash column chromatography (800 g, chloroform-methanol 9:1). Selected fractions are combined, concentrated under reduced pressure and dried at 25°C./0.2 mmHg for 2 h to give the title compound.

reactant | 2′-O-(trans-2-methoxy-cyclohexyl) adenosine | 0.056 mol | CO[C@H]1[C@@H](CCCC1)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C=NC=2C(N)=NC=NC12 | C17H25N5O5
reactant | Trimethylsilyl chloride | 0.291 mol, 36.4 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | Benzoyl chloride | 0.291 mol, 33.6 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | ammonium hydroxide | 112 mL | [OH-].[NH4+]
solvent | pyridine | 100 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 560 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 112 mL | O | H2O
product | N6-Benzoyl-2′-O-(trans-2-methoxycyclohexyl) adenosine | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3[C@H](O[C@H]4[C@@H](CCCC4)OC)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C24H29N5O6
